US05026750
1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl 3-Mercaptopropionate
The general procedure of Example 1 is followed using 2.00 grams (7.8 mmol) of 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine, 0.18 gram of lithium amide and 0.94 gram (7.8 mmol) of methyl 3-mercaptopropionate in 50 ml of toluene to afford the title compound after purification by silical gel chromatography.

reactant | 1-cyclohexyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 7.8 mmol, 2.00 grams | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | lithium amide | 0.18 gram | [NH2-].[Li+]
reactant | methyl 3-mercaptopropionate | 7.8 mmol, 0.94 gram | SCCC(=O)OC | C4H8O2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl 3-Mercaptopropionate | SCCC(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C18H33NO3S
